US08609688B2
Synthesis of 1-(3-bromophenyl)-N,N-dimethylpiperidine-4-carboxamide
To a solution of 1-(3-bromophenyl)piperidine-4-carboxylic acid (2 g, 7.0 mmol) in dioxane (70 mL), was added thionyl chloride (2.6 mL, 35 mmol) at 0° C. The mixture was kept at rt for 1 h and evaporated. The residue was co-evaporated with dichloromethane and dissolved in dichloromethane (5 mL). To this mixture, were added the mixture of dimethylamine HCl salt (1.7 g, 21 mmol), triethylamine (4.9 mL, 35 mmol) and dichloromethane (20 mL) at 0° C. The mixture was stirred at rt for 1 h and diluted with water and separated. The organic phase was dried and evaporated. The residue was purified with silica gel column chromatography (hexane/ethyl acetate 10:0 to 1:9) to give the titled compound (2.2 g, 100%).

reactant | 1-(3-bromophenyl)piperidine-4-carboxylic acid | 7.0 mmol, 2 g | BrC=1C=C(C=CC1)N1CCC(CC1)C(=O)O | C12H14BrNO2
reactant | thionyl chloride | 35 mmol, 2.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine HCl salt | 21 mmol, 1.7 g | Cl.CNC
reactant | triethylamine | 35 mmol, 4.9 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(3-bromophenyl)-N,N-dimethylpiperidine-4-carboxamide | 2.2 g, 100% | BrC=1C=C(C=CC1)N1CCC(CC1)C(=O)N(C)C | C14H19BrN2O
